* C:\Users\Dell\AppData\Roaming\SPB_16.6\eSim-Workspace\hacakthonbtg\hacakthonbtg.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 02/10/22 16:59:45

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
.lib "sky130_fd_pr/models/sky130.lib.spice" tt

xM1  A B G0 vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM10  G0 B Net-_M10-Pad3_ GND sky130_fd_pr__nfet_01v8 w=1 l=0.5		
xM2  B A G0 vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM11  G0 Net-_M10-Pad3_ B GND sky130_fd_pr__nfet_01v8 w=1 l=0.5		
xM3  vdd A Net-_M10-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM12  Net-_M10-Pad3_ A GND GND sky130_fd_pr__nfet_01v8 w=1 l=0.5	
xM4  B C G1 vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM13  G1 C Net-_M13-Pad3_ GND sky130_fd_pr__nfet_01v8 w=1 l=0.5		
xM5  C B G1 vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM14  G1 Net-_M13-Pad3_ C GND sky130_fd_pr__nfet_01v8 w=1 l=0.5		
xM6  vdd B Net-_M13-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM15  Net-_M13-Pad3_ B GND GND sky130_fd_pr__nfet_01v8 w=1 l=0.5		
xM7  C D G2 vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM16  G2 D Net-_M16-Pad3_ GND sky130_fd_pr__nfet_01v8 w=1 l=0.5		
xM8  D C G2 vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM17  G2 Net-_M16-Pad3_ D GND sky130_fd_pr__nfet_01v8 w=1 l=0.5		
xM9  vdd C Net-_M16-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM18  Net-_M16-Pad3_ C GND GND sky130_fd_pr__nfet_01v8 w=1 l=0.5		
		
vdd vdd GND dc 3.5
vd0 A 0 pulse(0 1.8 0s 0s 0s 5us 10us)
vd1 B 0 pulse(0 1.8 0s 0s 0s 10us 15us)
vd2 C 0 pulse(0 1.8 0s 0s 0s 5us 10us)
vd3 D 0 pulse(0 1.8 0s 0s 0s 5us 10us)

.tran 0.1us 50us

.control
run

plot V(A)+35 V(B)+30 V(C)+25 V(D)+20 V(G0)+15 V(G1)+10 V(G2)+5 V(D)
.endc

.end
